US07459562B2
A) N-(4-Methoxybenzyl)-6-chloropyrimidin-4-amine
A mixture of 4,6-dichloropyrimidine (Aldrich, 3.6 g, 24.2 mmol), 4-methoxybenzylamine (2.7 g, 19.7 mmol), DIPEA (5 ml, 28.8 mmol), and n-BuOH was heated at reflux for 3 h. The mixture was concentrated and the residue treated with H2O (150 mL) and EtOAc (175 mL). The EtOAc phase was separated, washed with saturated aq. NaHCO3 solution and brine, dried (MgSO4), and concentrated to give the title compound (4.5 g) which was used without further purification. 1H NMR (DMSO-d6) δ 8.29 (s, 1H), 8.13 (br s, 1H), 7.25 (d, 2H, J=8.2 Hz), 6.90 (d, 2H, J=8.2 Hz), 6.56 (s, 1H), 4.48 (s, 2H), 3.75 (s, 3H).

reactant | 4,6-dichloropyrimidine | 24.2 mmol, 3.6 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-methoxybenzylamine | 19.7 mmol, 2.7 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | DIPEA | 28.8 mmol, 5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | CCCCO | C4H10O
product | N-(4-Methoxybenzyl)-6-chloropyrimidin-4-amine | 4.5 g | COC1=CC=C(CNC2=NC=NC(=C2)Cl)C=C1 | C12H12ClN3O
